US07842694B2
3-(Cyclopentyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide
3-(Cyclopentyloxy)-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide (1.87 g, 4.78 mmol) was dissolved in ethanol (40 mL) and 10% palladium on charcoal (102 mg) catalyst added under argon. The reaction was stirred under an atmosphere of hydrogen for 86 hours, then filtered through Celite® and concentrated in vacuo to a light brown solid (1.31 g). 1H NMR δ (d6-DMSO): 1.54 (m, 2H), 1.76 (m, 4H), 1.96 (m, 2H), 2.75 (s, 1H), 3.83 (s, 3H), 4.91 (m, 1H), 6.49 (m, 1H), 6.61 (m, 1H), 6.98 (m, 1H), 7.06 (m, 1H), 7.65 (s, 1H), 9.73 (br s, 1H); m/z 302 (M+H)+

reactant | 3-(Cyclopentyloxy)-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide | 4.78 mmol, 1.87 g | C1(CCCC1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OCC1=CC=CC=C1 | C23H25N3O3
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 102 mg | [Pd] | Pd
product | 3-(Cyclopentyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | C1(CCCC1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O | C16H19N3O3
